US08487108B2
A mixture of ethyl 2-((R)-1-(3-chlorophenyl)-1-((R)-1-((S)-1-cyclohexyl-3-(methyl((2-(trimethylsilyl)ethoxy)carbonyl)amino)propan-2-ylcarbamoyl)piperidin-3-yl)ethoxy)acetate (0.0185 g) and 33% wt. methylamine in ethyl alcohol (10 mL) was stirred at rt for 3 d. After the reaction mixture was evaporated under reduced pressure, the crude product was purified by reversed-phase HPLC to afford 0.0035 g of 2-(trimethylsilyl)ethyl (S)-2-((R)-3-((R)-1-(3-chlorophenyl)-1-(2-(methylamino)-2-oxoethoxy)ethyl)piperidine-1-carboxamido)-3-cyclohexylpropyl(methyl)carbamate. MS ESI +ve m/z 653 (M+H).

reactant | ethyl 2-((R)-1-(3-chlorophenyl)-1-((R)-1-((S)-1-cyclohexyl-3-(methyl((2-(trimethylsilyl)ethoxy)carbonyl)amino)propan-2-ylcarbamoyl)piperidin-3-yl)ethoxy)acetate | 0.0185 g | ClC=1C=C(C=CC1)[C@](C)(OCC(=O)OCC)[C@H]1CN(CCC1)C(N[C@@H](CC1CCCCC1)CN(C(=O)OCC[Si](C)(C)C)C)=O | C34H56ClN3O6Si
reactant | methylamine | CN | CH5N
solvent | ethyl alcohol | 10 mL | C(C)O | C2H6O
product | 2-(trimethylsilyl)ethyl (S)-2-((R)-3-((R)-1-(3-chlorophenyl)-1-(2-(methylamino)-2-oxoethoxy)ethyl)piperidine-1-carboxamido)-3-cyclohexylpropyl(methyl)carbamate | 0.0035 g | ClC=1C=C(C=CC1)[C@](C)(OCC(=O)NC)[C@H]1CN(CCC1)C(=O)N[C@H](CN(C(OCC[Si](C)(C)C)=O)C)CC1CCCCC1 | C33H55ClN4O5Si
